US06555556B1
3-[3-[N-[4-(1-t-Butoxycarbonylpiperidin-4-yloxy)phenyl]-N-ethylamino]-1-(E)-propenyl]benzonitrile
To a solution of 3-[3-[N-[4-(1-t-butoxycarbonylpiperidin-4-yloxy)phenyl]amino]-1-(E)-propenyl]benzonitrile (1000 mg) and acetaldehyde (0.52 ml) in a mixture of dichloromethane (10 ml) and methanol (20 ml) were added acetic acid (0.26 ml) and sodium cyanoborohydride (144 mg) in an ice bath. The mixture was stirred at the same temperature for 2 hours and then at room temperature overnight. To the reaction mixture was added water, and the mixture was then extracted with ethyl acetate. The extractant was washed with brine, dried over anhydrous magnesium sulfate and filtered, and the filtrate concentrated in vacuo. The residue was purified by chromatography on a silica gel column using hexane/ethyl acetate=4/1→2/1 as an eluant to give the desired compound (661 mg, yield 62%) as a yellow oil.

reactant | 3-[3-[N-[4-(1-t-butoxycarbonylpiperidin-4-yloxy)phenyl]amino]-1-(E)-propenyl]benzonitrile | 1000 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=CC=C(C=C1)NC/C=C/C=1C=C(C#N)C=CC1 | C26H31N3O3
reactant | acetaldehyde | 0.52 ml | C(C)=O | C2H4O
reactant | acetic acid | 0.26 ml | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 144 mg | C(#N)[BH3-].[Na+]
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | methanol | 20 ml | CO | CH4O
solvent | water | O | H2O
product | 3-[3-[N-[4-(1-t-Butoxycarbonylpiperidin-4-yloxy)phenyl]-N-ethylamino]-1-(E)-propenyl]benzonitrile | 661 mg, yield 62% | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=CC=C(C=C1)N(CC)C/C=C/C=1C=C(C#N)C=CC1 | C28H35N3O3
